US06358973B1
N-[cyclopentyl-(3-methoxy-phenyl)-methyl]-2-(3,5-dichloro-pyridin-4-yl)-acetamide
By working in a way similar to that described in example 30 but using (3,5-dichloro-pyridin-4-yl)-acetic acid (2.06 g, 10 mmoles), carbonyldiimidazole (1.78 g, 11 mmoles), THF (30 ml) and 2-cyclopentyl-2-(3-methoxy-phenyl)-ethylamine (2.19 g, 10 mmoles), obtained as described in example 33, 3.8 g of the title compound were obtained (yield: 98.2%), m.p.: 105-106° C.

reactant | (3,5-dichloro-pyridin-4-yl)-acetic acid | 10 mmoles, 2.06 g | ClC=1C=NC=C(C1CC(=O)O)Cl | C7H5Cl2NO2
reactant | carbonyldiimidazole | 11 mmoles, 1.78 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-cyclopentyl-2-(3-methoxy-phenyl)-ethylamine | 10 mmoles, 2.19 g | C1(CCCC1)C(CN)C1=CC(=CC=C1)OC | C14H21NO
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-[cyclopentyl-(3-methoxy-phenyl)-methyl]-2-(3,5-dichloro-pyridin-4-yl)-acetamide | 3.8 g, yield: 98.2% | C1(CCCC1)C(NC(CC1=C(C=NC=C1Cl)Cl)=O)C1=CC(=CC=C1)OC | C20H22Cl2N2O2
